US07291631B2
Using General Procedure B: Reaction of (3,5-dimethyl-pyridin-2-ylmethyl)-{2-[1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]-ethyl}-amine and 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]pyridine-2-carbaldehyde in CH2Cl2 with NaBH(OAc)3 gave (3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-{2-[1-{toluene-4-sulfonyl)-1H-imidazol-4-yl]-ethyl}-amine (87.3 mg, 39%).

reactant | (3,5-dimethyl-pyridin-2-ylmethyl)-{2-[1-(toluene-4-sulfonyl)-1H-imidazol-4-yl]-ethyl}-amine | CC=1C(=NC=C(C1)C)CNCCC=1N=CN(C1)S(=O)(=O)C1=CC=C(C=C1)C | C20H24N4O2S
reactant | 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]pyridine-2-carbaldehyde | FC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)C=O | C15H14FNO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-{2-[1-{toluene-4-sulfonyl)-1H-imidazol-4-yl]-ethyl}-amine | 87.3 mg, 39% | CC=1C(=NC=C(C1)C)CN(CCC=1N=CN(C1)S(=O)(=O)C1=CC=C(C=C1)C)CC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)F | C35H38FN5O2S
